US07226918B2
7-Hydroxy-2-(morpholin-4-yl)-chromen-4-one (Compound 307)
To a mixture of 7-(2,6-dichlorobenzyloxy)-2-(morpholin-4-yl)-chromen-4-one (6.60 g, 16.2 mmol) (299) and 10% Pd/C (150 mg) was added methanol (150 ml), under nitrogen. The suspension was stirred under an atmosphere of hydrogen for 40 h. The catalyst was removed by filtration through Celite, washing with methanol. The solvent was removed by evaporation in vacuo to provide an off-white solid. This was treated with fresh catalyst, re-suspended in methanol under nitrogen and stirred under an atmosphere of hydrogen for a further 72 h. The catalyst was removed by filtration through Celite, washing with methanol. The filtrate was evaporated in vacuo and the crude product re-crystallised from methanol to provide 2.26 g (9.1 mmol, 57%) of the desired compound as a white solid. mp>250° C. (decomp). 1H NMR (200 Mhz, d6-DMSO) δ 3.78 (4H, m); 3.86 (4H, m); 6.15 (1H, s); 7.05-7.13 (2H, m); 7.93 (1H, d); 11.3 (1H, bs). ESMS m/z=247 (M+), 190, 105.

reactant | 7-(2,6-dichlorobenzyloxy)-2-(morpholin-4-yl)-chromen-4-one | 16.2 mmol, 6.60 g | ClC1=C(COC2=CC=C3C(C=C(OC3=C2)N2CCOCC2)=O)C(=CC=C1)Cl | C20H17Cl2NO4
solvent | methanol | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
product | 7-Hydroxy-2-(morpholin-4-yl)-chromen-4-one | 9.1 mmol, 2.26 g, 57% | OC1=CC=C2C(C=C(OC2=C1)N1CCOCC1)=O | C13H13NO4
